US08895582B2
To a solution of (S)-3-benzyloxycarbonylamino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)propyl 6-fluoroisoquinolin-3-ylcarbamate (1.3 g, 2.13 mmol) in CH3CN (20.0 mL) was added TMSI (0.35 mL, 2.56 mmol). The mixture was stirred for 15 min. MeOH (20.0 mL) was added and stirring continued another 15 min. The mixture was concentrated and partitioned between diethyl ether (30 mL) and HCl (2 N, 20 mL). The aqueous layer was separated, adjusted to pH 9, extracted with EtOAc (200 mL×2). The combined organic layers were washed brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give an crude oil, which was dissolved in DMF (6.0 mL). To this DMF solution were added Boc-Gly-OH (0.36 g, 2.03 mmol) and HBTU (0.77 g, 2.03 mmol). The mixture was stirred for 1 h. The crude was filtered and purified on RP-HPLC using a mixture of acetonitrile and H2O to give (S)-3-(2-tert-butoxycarbonylaminoacetamido)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)propyl 6-fluoroisoquinolin-3-ylcarbamate (0.91 g, 78%). LRMS (M+H+) m/z 635.2.

reactant | (S)-3-benzyloxycarbonylamino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)propyl 6-fluoroisoquinolin-3-ylcarbamate | 2.13 mmol, 1.3 g | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CNC(=O)OCC1=CC=CC=C1)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C30H28ClF2N5O5
reactant | TMSI | 2.56 mmol, 0.35 mL | [Si](C)(C)(C)I | C3H9ISi
reactant | Boc-Gly-OH | 2.03 mmol, 0.36 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | HBTU | 2.03 mmol, 0.77 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH3CN | 20.0 mL | CC#N | C2H3N
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 20.0 mL | CO | CH4O
product | (S)-3-(2-tert-butoxycarbonylaminoacetamido)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)propyl 6-fluoroisoquinolin-3-ylcarbamate | 0.91 g, 78% | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CNC(CNC(=O)OC(C)(C)C)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C29H33ClF2N6O6
